US08580859B2
A solution of (S)-methyl 12,12-dimethyl-7,10-dioxo-11-oxa-2-thia-6,9-diazatridecane-5-carboxylate (7 g, 21 mmol) in dioxane (120 mL) and hydroxylamine (50% in water, 80 mL) was stirred at room temperature for 4 hours. The solution was concentrated and extracted with ethyl acetate (200 mL). The organic layers were washed with 1N HCl, brine, and dried over sodium sulfate, filtered and concentrated to give a residue, which was purified on silica gel column (hexane:ethyl acetate, 1:1 to pure acetate) to give (S)-tert-butyl 2-(1-(hydroxyamino)-4-(methylthio)-1-oxobutan-2-ylamino)-2-oxoethylcarbamate (2 g, 28%). MS calcd for (C12H23N3O5S+H)+: 322.1; MS found: (M+H)+=322.0.

reactant | (S)-methyl 12,12-dimethyl-7,10-dioxo-11-oxa-2-thia-6,9-diazatridecane-5-carboxylate | 21 mmol, 7 g | CC(OC(NCC(N[C@@H](CCSC)C(=O)OC)=O)=O)(C)C | C13H24N2O5S
reactant | hydroxylamine | 80 mL | NO | H3NO
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 2-(1-(hydroxyamino)-4-(methylthio)-1-oxobutan-2-ylamino)-2-oxoethylcarbamate | 2 g, 28% | ONC([C@H](CCSC)NC(CNC(OC(C)(C)C)=O)=O)=O | C12H23N3O5S
